US05260293
2,6-Diiodopyrazine (12 g, 36.14 mmol) was added to a solution of sodium (0.83 g, 36.10 mmol) in ethanol (75 ml). The solution was refluxed for 1 h, the solvent removed under vacuum, water (40 ml) added and extracted into dichloromethane (4×200 ml). The solvent was removed under vacuum and the residue chromatographed through silica-gel using dichloromethane as eluant to give 2-iodo-6-ethoxy pyrazine (6.5 g). m.p. 36°-37° C.; δ (60 MHz, CDCl3) 1.30 (3H, t, J=7 Hz, Me); 4.35 (2H, q, J=7 Hz, CH2Me); 8.07 (1H, s, pyrazine-H): 8.35 (1H, s, pyrazine-H).

reactant | 2,6-Diiodopyrazine | 36.14 mmol, 12 g | IC1=NC(=CN=C1)I | C4H2I2N2
reactant | sodium | 36.10 mmol, 0.83 g | [Na] | Na
reactant | ethanol | 75 ml | C(C)O | C2H6O
product | 2-iodo-6-ethoxy pyrazine | 6.5 g | IC1=NC(=CN=C1)OCC | C6H7IN2O
